US06706763B1
To 484 mg of 5-cyanomethyl-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide were added 10 ml of ethanol, 0.6 ml of 30% aqueous hydrogen peroxide and 5 ml of 0.1 mol/l sodium hydroxide, and the mixture was stirred for 1 hour at 50° C. Then, 0.6 ml of 30% aqueous hydrogen peroxide and 5 ml of 0.1 mol/l sodium hydroxide were added again and the mixture was stirred for 30 minutes at 50° C. The reaction mixture was poured into water and extracted with ethyl acetate. After washed with saturated aqueous solution of sodium bicarbonate and saturated brine in sequence, the organic layer was dried over anhydrous sodium sulfate. Solvent was distilled off under reduced pressure, and the residue obtained was purified by means of column chromatography (silica gel, methylene chloride:methanol=100:1 to 50:1) to obtain 318 mg of 5-carbamoylmethyl-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide as colorless crystals.

reactant | 5-cyanomethyl-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide | 484 mg | C(#N)CC=1C=CC(=C(C(=O)NCC2=CC=C(C=C2)C(F)(F)F)C1)OC | C18H15F3N2O2
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | hydrogen peroxide | 0.6 ml | OO | H2O2
reactant | sodium hydroxide | 0.1 mol/l, 5 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 0.6 ml | OO | H2O2
reactant | sodium hydroxide | 0.1 mol/l, 5 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 5-carbamoylmethyl-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide | 318 mg | C(N)(=O)CC=1C=CC(=C(C(=O)NCC2=CC=C(C=C2)C(F)(F)F)C1)OC | C18H17F3N2O3
